US08252820B2
A. 3,5-Difluoro-2-nitrophenol
To a yellow solution of 3,5-difluorophenol (1.50 g, 11.5 mmol) in dichloromethane (20 mL) under a blanket of nitrogen is added ammonium nickel sulfate (4.56 g, 11.54 mmol) with vigorous stirring, followed by the addition of nitric acid (69%, 0.74 mL, 11.54 mmol). The resulting heterogeneous mixture is then stirred at ambient temperature vigorously for 30 minutes. It is filtered and dichloromethane is removed under reduced pressure. The residue is purified by column chromatography to afforded a yellow solid as the title compound.

reactant | 3,5-difluorophenol | 11.5 mmol, 1.50 g | FC=1C=C(C=C(C1)F)O | C6H4F2O
reactant | nitric acid | 11.54 mmol, 0.74 mL | [N+](=O)(O)[O-] | HNO3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | ammonium nickel sulfate | 11.54 mmol, 4.56 g | S(=O)(=O)([O-])[O-].[Ni+].[NH4+]
product | 3,5-Difluoro-2-nitrophenol | FC=1C(=C(C=C(C1)F)O)[N+](=O)[O-] | C6H3F2NO3
